US08426437B2
8-[(4-Fluorophenyl)-methyl-sulfamoyl]-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid (103)
This compound is prepared according to synthesis 75 from 412 mg (0.93 mmol) of 8-[(4-fluorophenyl)-methyl-sulfamoyl]-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-ethyl carboxylate and 360 mg (13.95 mmol) of lithium hydroxide monohydrate to give, after acid-basic treatment and precipitation in an acid aqueous phase (pH 5), 200 mg (52%) of 8-[(4-fluorophenyl)-methyl-sulfamoyl]-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid in the form of a pale pink solid.

reactant | 8-[(4-fluorophenyl)-methyl-sulfamoyl]-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline 1-ethyl carboxylate | 0.93 mmol, 412 mg | FC1=CC=C(C=C1)N(S(=O)(=O)C1=CC=2C3=C(C(NC2C=C1)=O)NC=C3)C.C(C)C(=O)[O-]
reactant | lithium hydroxide monohydrate | 13.95 mmol, 360 mg | O.[OH-].[Li+]
product | 8-[(4-Fluorophenyl)-methyl-sulfamoyl]-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid | FC1=CC=C(C=C1)N(S(=O)(=O)C1=CC=2C3=C(C(NC2C=C1)=O)NC=C3C(=O)O)C | C19H14FN3O5S
